US08071584B2
(racemic)-3-[trans-2-(1-Methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-5-(2-thienyl)-1H-indole-7-carboxamide
(racemic)-5-Bromo-3-[trans-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide (60 mg, 0.145 mmol) was placed in a microwave vial and dissolved with 1,4-Dioxane (2 mL) and Water (1.000 mL). 2-Thienylboronic acid (37.1 mg, 0.290 mmol) and K2CO3 (60.2 mg, 0.435 mmol) were added. Argon was bubbled in the mixture for 10 min with stirring, PdCl2(dppf) (5.60 mg, 0.012 mmol) was added, and argon was bubbled another 10 mins. The vial was sealed and put under microwave 5 mins at 100° C. with high absorption parameter. The reaction was complete after the microwave treatment. The crude was run through a thiol-SPE cartridge eluting with 2 mL of methanol and the eluted solvents are evaporated. The brown oil was dissolved in 2-3 mL of DMSO, and purified on a Gilson HPLC. The desired fractions were concentrated, giving 13 mg of the title compound.

reactant | (racemic)-5-Bromo-3-[trans-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide | 0.145 mmol, 60 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)[C@H]1C[C@@H](S(CC1)(=O)=O)C(C)C | C17H21BrN2O3S
reactant | 1,4-Dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | 2-Thienylboronic acid | 0.290 mmol, 37.1 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | K2CO3 | 0.435 mmol, 60.2 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) | 0.012 mmol, 5.60 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Water | 1.000 mL | O | H2O
product | (racemic)-3-[trans-2-(1-Methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-5-(2-thienyl)-1H-indole-7-carboxamide | 13 mg | CC(C)[C@@H]1S(CC[C@H](C1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N)(=O)=O | C21H24N2O3S2
